US08383633B2
A mixture of crude N-(4-(4-(1,2,4-Thiadiazol-5-ylamino)-6-chloropyrimidin-2-ylthio)phenyl)cyclopropanecarboxamide (780 mg, 1.93 mmol), 3-cyclopropyl -3-fluoroazetidine hydrochloride (818 mg, 5.4 mmol), DiPEA (0.7 mL, 4.6 mmol) in 1,4-dioxane (20 mL) was heated in the microwave to 130° C. for 20 minutes. The mixture was concentrated and purified by preparative HPLC to yield 34 mg of N-(4-(4-(1,2,4-Thiadiazol-5-ylamino)-6-(3-cyclopropyl-3-fluoroazetidin-1-yl)pyrimidin-2-ylthio)phenyl)cyclopropanecarboxamide with a purity of 95+% (HPLC method A, Rf=8.573 minutes).

reactant | N-(4-(4-(1,2,4-Thiadiazol-5-ylamino)-6-chloropyrimidin-2-ylthio)phenyl)cyclopropanecarboxamide | 1.93 mmol, 780 mg | S1N=CN=C1NC1=NC(=NC(=C1)Cl)SC1=CC=C(C=C1)NC(=O)C1CC1 | C16H13ClN6OS2
reactant | 3-cyclopropyl -3-fluoroazetidine hydrochloride | 5.4 mmol, 818 mg | Cl.C1(CC1)C1(CNC1)F
reactant | DiPEA | 4.6 mmol, 0.7 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N-(4-(4-(1,2,4-Thiadiazol-5-ylamino)-6-(3-cyclopropyl-3-fluoroazetidin-1-yl)pyrimidin-2-ylthio)phenyl)cyclopropanecarboxamide | 34 mg | S1N=CN=C1NC1=NC(=NC(=C1)N1CC(C1)(F)C1CC1)SC1=CC=C(C=C1)NC(=O)C1CC1 | C22H22FN7OS2
